US04221789
10.14 g (0.06 mol) of 1-(tetrahydro-2-oxo-3-furyl)-2-pyrrolidinone are dissolved in 50 ml of methanol and 8.78 g (0.12 mol) of n-butylamine are added to the solution. The reaction mixture is heated under reflux (65° C.) for 3 hours and then evaporated under a high vacuum. 12.3 g (yield: 85% of theory) of N-n-butyl-alpha-(2-hydroxyethyl)-2-oxo-1-pyrrolidineacetamide are obtained in the form of a syrup.

reactant | 1-(tetrahydro-2-oxo-3-furyl)-2-pyrrolidinone | 0.06 mol, 10.14 g | O=C1OCCC1N1C(CCC1)=O | C8H11NO3
reactant | n-butylamine | 0.12 mol, 8.78 g | C(CCC)N | C4H11N
solvent | methanol | 50 ml | CO | CH4O
product | N-n-butyl-alpha-(2-hydroxyethyl)-2-oxo-1-pyrrolidineacetamide | 12.3 g, yield: 85% | C(CCC)NC(C(N1C(CCC1)=O)CCO)=O | C12H22N2O3
